### PR TITLE
[Merged by Bors] - feat(Combinatorics): Glaisher's theorem

### PR DESCRIPTION
**Pull request by wwylele**
This proves Glaisher's theorem, one of the 1000+ theorems. It is also a generalization of [Euler's partition theorem](https://github.com/leanprover-community/mathlib4/blob/master/Archive/Wiedijk100Theorems/Partition.lean), which can be rewritten as a collorary of this (will be in a different PR)

---

 - [ ] depends on: #30599
 - [ ] depends on #30567

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
This is now ready for review

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 1]
```diff
@@ -213,6 +213,14 @@ def distincts (n : ℕ) : Finset (Partition n) :=
 def oddDistincts (n : ℕ) : Finset (Partition n) :=
   odds n ∩ distincts n
 
+/-- The finset of those partitions in which every part satisfies a certain condition. -/
+def restricted (n : ℕ) (p : ℕ → Prop) [DecidablePred p] : Finset (n.Partition) :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]:
```suggestion
def restricted (n : ℕ) (p : ℕ → Prop) [DecidablePred p] : Finset n.Partition :=
```

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 2]
```diff
@@ -213,6 +213,14 @@ def distincts (n : ℕ) : Finset (Partition n) :=
 def oddDistincts (n : ℕ) : Finset (Partition n) :=
   odds n ∩ distincts n
 
+/-- The finset of those partitions in which every part satisfies a certain condition. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: I think we should change `odds` to be defined in terms of this one

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 3]
```diff
@@ -213,6 +213,14 @@ def distincts (n : ℕ) : Finset (Partition n) :=
...
+def restricted (n : ℕ) (p : ℕ → Prop) [DecidablePred p] : Finset (n.Partition) :=
+  Finset.univ.filter fun x ↦ ∀ i ∈ x.parts, p i
+
+/-- The finset of those partitions in which every part is used less than `m` times. -/
+def countRestricted (n : ℕ) (m : ℕ) : Finset (n.Partition) :=
+  Finset.univ.filter fun x ↦ ∀ i ∈ x.parts, x.parts.count i < m
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: Let's also define this in terms of `restricted`.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 4]
```diff
@@ -0,0 +1,166 @@
...
+https://en.wikipedia.org/wiki/Glaisher%27s_theorem
+-/
+
+variable (R) [TopologicalSpace R] [T2Space R]
+
+namespace PowerSeries.WithPiTopology
+variable [CommRing R]
+
+omit [T2Space R] in
+theorem multipliable_one_sub_X_pow : Multipliable fun n ↦ (1 : R⟦X⟧) - X ^ (n + 1) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean]: This one and the next look generic enough that they should be in another file, perhaps nearer WithPiTopology?

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean]: I can move them to PowerSeries/WithPiTopology

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean (hunk 3 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: They are different. `restricted` filters on what numbers are allowed, and `countRestricted` filters on how many of them are allowed (independent of what the number is). 

I can create a unified version that filters on both: `def generalRestricted (n : ℕ) (p : /-part-/ ℕ → /-count-/ ℕ → Prop) : Finset (n.Partition)`. and then define both on top of this. Is this better?

Comment (b-mehta) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: Oops, missed that. Let's keep this one as is then, for now.

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean (hunk 2 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: I planned to do this when I clean up https://github.com/leanprover-community/mathlib4/blob/master/Archive/Wiedijk100Theorems/Partition.lean, but I can do it now

**Review by b-mehta — COMMENTED** [review]
This looks good to me, but I'd like to hear @AntoineChambert-Loir's opinion on the two new power series lemmas. I think they're useful special cases of PowerSeries.WithPiTopology.multipliable_one_add_of_tendsto_order_atTop_nhds_top, and so should be included in the same way we have "specific limits" and "special functions" in mathlib; but it may be that there's a more useful version I'm not currently seeing.

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 5]
```diff
@@ -205,16 +205,23 @@ partitions.
...
+def odds (n : ℕ) : Finset n.Partition := restricted n (¬ Even ·)
 
 /-- The finset of those partitions in which each part is used at most once. -/
-def distincts (n : ℕ) : Finset (Partition n) :=
+def distincts (n : ℕ) : Finset n.Partition :=
   Finset.univ.filter fun c => c.parts.Nodup
 
 /-- The finset of those partitions in which every part is odd and used at most once. -/
-def oddDistincts (n : ℕ) : Finset (Partition n) :=
+def oddDistincts (n : ℕ) : Finset n.Partition :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:224]: maybe `odd_and_distincts`, because `oddDistincts` suggests that only the odd parts have to be distinct.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 6]
```diff
@@ -0,0 +1,148 @@
...
+## Main declarations
+* `Nat.Partition.card_restricted_eq_card_countRestricted`: Glaisher's theorem.
+
+## References
+https://en.wikipedia.org/wiki/Glaisher%27s_theorem
+-/
+
+@[expose] public section
+
+variable (R) [TopologicalSpace R] [T2Space R]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:27]: The results here should not depend on the choice of a topological structure on `R`, nor that it is `T2`.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 7]
```diff
@@ -0,0 +1,148 @@
...
+open PowerSeries PowerSeries.WithPiTopology Finset
+
+section Semiring
+variable [CommSemiring R]
+
+/-- The generating function of `Nat.Partition.restricted n p` is
+$$
+\prod_{i \mem p} \sum_{j = 0}^{\infty} X^{ij}
+$$ -/
+theorem hasProd_powerSeriesMk_card_restricted [IsTopologicalSemiring R]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:39]: I would like that the mention to the topological structure be erased from the statement. You can endow `R` with the discrete structure in the proof if needed.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 8]
```diff
@@ -0,0 +1,148 @@
...
+    PowerSeries.mk (fun n ↦ (#(restricted n p) : R)) =
+    ∏' i, if p (i + 1) then ∑' j : ℕ, X ^ ((i + 1) * j) else 1 :=
+  (hasProd_powerSeriesMk_card_restricted R p).tprod_eq.symm
+
+/-- The generating function of `Nat.Partition.countRestricted n m` is
+$$
+\prod_{i = 1}^{\infty} \sum_{j = 0}^{m - 1} X^{ij}
+$$ -/
+theorem hasProd_powerSeriesMk_card_countRestricted {m : ℕ} (hm : 0 < m) :
+    HasProd (fun i ↦ ∑ j ∈ range m, X ^ ((i + 1) * j))
```
Comment (AntoineChambert-Loir) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: Before stating `HasProd`, which relies on some topology, you could state the algebraic property that implies the existence of this product (this stuff minus one has order going to infinity).

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 9]
```diff
@@ -0,0 +1,148 @@
...
+    trans ∑ k ∈ range (m - 1), (if k + 1 < m then (1 : R) else 0) • X ^ ((i + 1) * (k + 1))
+    · refine sum_congr rfl fun b hn ↦ ?_
+      rw [add_comm 1 b]
+      have : b + 1 < m := by grind
+      simp [this]
+    · exact (tsum_eq_sum (fun b hb ↦ smul_eq_zero_of_left (by simpa using hb) _)).symm
+  · simp_rw [genFun, countRestricted, card_filter, Finsupp.prod, prod_boole]
+    simp
+
+theorem multipliable_powerSeriesMk_card_countRestricted (m : ℕ) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:87]: Same remark.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean [hunk 10]
```diff
@@ -0,0 +1,148 @@
...
+    PowerSeries.mk (fun n ↦ (#(countRestricted n m) : R)) =
+    ∏' i, ∑ j ∈ range m, X ^ ((i + 1) * j) :=
+  (hasProd_powerSeriesMk_card_countRestricted R hm).tprod_eq.symm
+
+end Semiring
+
+section Ring
+variable [CommRing R] [NoZeroDivisors R]
+
+private theorem aux_mul_one_sub_X_pow [IsTopologicalRing R] {m : ℕ} (hm : 0 < m) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:103]: again, I am not sure the topological structure is used here.

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean (hunk 5 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:224]: I didn't add this and this was just touched as part of code style clean up. Can we keep this as-is and do renaming later?

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 6 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:27]: For theorems that doesn't use topology in the statement (`powerSeriesMk_card_restricted_eq_powerSeriesMk_card_countRestricted` and `card_restricted_eq_card_countRestricted`), I dropped `[TopologicalSpace R]` from them. All other intermediate lemmas uses the topology in the statement for the infinite sum (and T2 to ensure the sum is unique). 

I can change the entire file to just use discrete topology, but isn't it weaker than what it is written here? Having `[TopologicalSpace R]` as the theorem input precisely means "the results are *independent* on the choice of a topological structure, and it is true for any structure"

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 7 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:39]: See the same comment above why I think that would make the lemma weaker

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 8 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: This is proved as a direct consequence of `hasProd_genFun` instead of arguing about the order directly (which was done inside `hasProd_genFun`). I don't think I should restate the argument about the order

Comment (b-mehta) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: I think making the order statement about genFun would make sense then

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: @b-mehta the problem is that `hasProd_genFun` was not proved using the fact about the order either, but it was proved by directly comparing the coefficients at the limit between LHS and RHS, and I am pretty sure it is shorter that way. Do I still need to state the fact about the order separately? It don't find any value in it

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:27]: Yes, but the user will have to provide a structure of a topological space to apply the result.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: The value, again, is that the result can be used without reference to a topology on the ring. docs#MvPowerSeries.WithPiTopology.summable_of_tendsto_order_atTop_nhds_top will show the relation, and I am surprised not to find the converse when the topology is discrete. But that means you are not forced to change your proof.

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:224]: Certainly.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: My comments apply, in fact, to `genFun`, but you shall note that the proof uses docs#WithPiTopology.summable_of_tendsto_order_atTop_nhds_top so it's unlikely that any serious modification be needed.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 6 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:27]: Yes, but then the user can just provide discrete topology. This provide the user the options to use different topology if they already have one in their context.

File: Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean (hunk 8 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: The usage of `WithPiTopology.summable_of_tendsto_order_atTop_nhds_top` in `summable_genFun_term` is to show the inner infinite summation makes sense, but the proof of the outer product doesn't use argument about the order. As for application in `countRestricted`, the inner summation collapse to a finite one so no need to prove the summability any more. Though, for `hasProd_powerSeriesMk_card_restricted`, the inner summation is still infinite, so I can see the argument of giving the direct statement about the order there.

In any case, if you feel strongly about it, I can add all the facts about order. I just want to clarify how the order argument is used

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: I feel indeed strongly about it, and maybe I shouldn't. To give an analogy (and it is more than that), this PR defines a constant as a function of an additional parameter — on which it does not depend. (This would be off topic, but there exist power series with rational coefficients that converge both in C and Q_5, to different elements, and one should be able to arrange that their limits are distinct rational numbers.)

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: So I started adding lemma about the order of involved power series. Here is some additional thoughts
1. `tendsto_order_genFun_term_atTop_nhds_top` for summation in the `genFun`. Added without problem in the last commit
2.  order argument for the multiplication in `genFun`. The statement would look like
```
theorem tendsto_order_genFun_atTop_nhds_top (f : ℕ → ℕ → R) :
    Tendsto (fun i ↦ (∑' j, f (i + 1) (j + 1) • (X : R⟦X⟧) ^ ((i + 1) * (j + 1))).order) atTop (nhds ⊤) := by

  sorry
```
But this has a few issues
 - To even state it, it already has `∑'` inside and thus require topology, nullifying the goal to state only about algebra
 - Naturally it needs some lemma about `PowerSeries.order` and tsum. Do I need to create another dependent PR, even though this just goes unused by the main theorem here? Can I do that later?
3. The specialized version of the summation for `Partition.restrict` would be just that `fun j ↦ X ^ ((i + 1) * j)` increases in order, but this looks too trivial to be a lemma (and again, it is unused)

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: - Another possible lemma is for the multipliability related to `hasProd_powerSeriesMk_card_countRestricted`, which doesn't involve infinite sum and is indeed purely algebraic. However, the hypothetical lemma
```
theorem tendsto_order_sum_X_pow_sub_one_atTop_nhds_top (m : ℕ) :
    Filter.Tendsto (fun i ↦ ((∑ j ∈ range m, (X : R⟦X⟧) ^ ((i + 1) * j)) - (1 : R⟦X⟧)).order) Filter.atTop (nhds ⊤) 
```
doesn't type check, because the entire section has been in `Semiring R`, and there is no subtraction. I could either make this specifically for `Ring R`, or just remove the first term from the sum so it is `(fun i ↦ ((∑ j ∈ Finset.Ico 1 m, (X : R⟦X⟧) ^ ((i + 1) * j))).order)`, but now it loses the connection with `hasProd_powerSeriesMk_card_countRestricted` and just be there for no reason.

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Enumerative/Partition/Glaisher.lean:71]: I see your points and I believe they beat mine. 
Ad 1. OK
Ad 2. I have no clear answer to propose.
Ad 3. Another possibility would be to define a variant of order that doesn't look at the initial term, etc., but while this may be interesting in the long range, this would be useless work for here only.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
